US08440689B2
A. Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclopentylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate
A mixture of methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate (165.0 mg, 0.451 mmol), Et3N (0.15 mL, 1.076 mmol), and tert-butyl (1S,2R)-2-aminocyclopentylcarbamate (142.0 mg, 0.709 mmol) in DMF (6 mL) was stirred at 60° C. for 12 h. Saturated aq NaHCO3 (20 mL) was added to the mixture, which was subsequently extracted with EtOAc (2×30 mL). The organic layers were washed with saturated aq NaHCO3 (20 mL), water (20 mL) and brine (20 mL), were dried over anhydrous Na2SO4, and filtered (DM1020). The filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, hexanes/EtOAc=1/1) and then triturated with IPE to provide the title compound (147 mg).

reactant | methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 0.451 mmol, 165.0 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C15H12ClN3O4S
reactant | Et3N | 1.076 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl (1S,2R)-2-aminocyclopentylcarbamate | 0.709 mmol, 142.0 mg | N[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclopentylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 147 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C25H31N5O6S
